US07777047B2
N-(5-(2-methoxyethoxy)-2-{5-[(1-oxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)-N,1-dimethyl-1H-imidazole-2-sulfonamide
To a mixture of N-[2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-5-(2-methoxyethoxy)-1H-indol-7-yl]-N,1-dimethyl-1H-imidazole-2-sulfonamide (280 mg), trifluoroacetic acid (3.5 mL) and water (10.5 mL) was added concentrated sulfuric acid (3.5 mL), and the mixture was stirred at 60° C. for 3.5 hr. The excess trifluoroacetic acid was evaporated under reduced pressure, and the residue was neutralized with sodium hydrogencarbonate. The reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, and filtrated, and the filtrate was concentrated under reduced pressure. The obtained crude product was dissolved in tetrahydrofuran (10 mL), thiomorpholine 1-oxide hydrochloride (103 mg) and triethylamine (0.1 mL) were added, and the mixture was stirred at room temperature for 15 min. Sodium triacetoxyborohydride (233 mg) was added, and the mixture was stirred at room temperature for 16 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, and filtrated, and the filtrate was concentrated under reduced pressure. The residue was silica gel column chromatography (methanol:ethyl acetate=0:100-10:90), and the obtained crude product was further purified by preparative HPLC to give the title compound (56 mg, yield 18%) as a white solid. MS: 581 (MH+).

reactant | N-[2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-5-(2-methoxyethoxy)-1H-indol-7-yl]-N,1-dimethyl-1H-imidazole-2-sulfonamide | 280 mg | COC(C1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C=1N(C=CN1)C)C)OC | C22H29N5O6S2
reactant | trifluoroacetic acid | 3.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sulfuric acid | 3.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | thiomorpholine 1-oxide hydrochloride | 103 mg | Cl.N1CCS(CC1)=O
reactant | Sodium triacetoxyborohydride | 233 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | water | 10.5 mL | O | H2O
product | N-(5-(2-methoxyethoxy)-2-{5-[(1-oxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)-N,1-dimethyl-1H-imidazole-2-sulfonamide | 56 mg, yield 18% | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C=1N(C=CN1)C)C)C=1SC(CN1)CN1CCS(CC1)=O | C24H32N6O5S3
